US04084049
2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.55 g) was dissolved in a mixture of tetrahydrofuran (5 ml) and isopropanol (5 ml). To this solution was added silver fluoroborate (0.24 g) under ice-cooling and the mixture was stirred for 1 hour. The reaction mixture was concentrated and the obtained residue was dissolved in chloroform. This solution was washed with a saturated sodium bicarbonate aqueous solution and with water and then dried over magnesium sulfate. The residue obtained by distilling off the solvent was purified by chromatography on silica gel using chloroform as developing solvent to give oily 2,2,2-trichloroethyl 3-methyl-3-isopropoxy-7-(2-phenylacetamido)-cepham-4-carboxylate (0.10 g).

reactant | 2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.55 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | silver fluoroborate | 0.24 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 3-methyl-3-isopropoxy-7-(2-phenylacetamido)-cepham-4-carboxylate | 0.10 g | CC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)OC(C)C | C21H25Cl3N2O5S
